2186-03-17 05:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Has required ~380 mg Diazepam here o/n, q10 minute dosing, still
   tachycardic, tachypneic
   - Fell out of bed, landed on bottom, witnessed fall, no head strike
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2186-3-17**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-17**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 112 (111 - 131) bpm
   BP: 142/86(94) {126/74(88) - 153/93(102)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    560 mL
                                                                    180 mL
   Urine:
                                                                    560 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Gen: Sleeping, tachypneic respirations
   HEENT: Neck supple
   CV: S1 S2 tachy, no murmur
   Lungs: CTAB
   Ab: incision site C/D/I
   Ext: No edema
   Labs / Radiology
   175 K/uL
   13.1 g/dL
   122 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   10 mg/dL
   96 mEq/L
   129 mEq/L
   38.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
   WBC
   16.1
   15.0
   Hct
   38.5
   38.0
   Plt
   194
   175
   Cr
   0.7
   0.7
   Glucose
   119
   122
   Other labs: PT / PTT / INR:12.3/27.0/1.0, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:89/64, Alk Phos / T Bili:63/1.5,
   Albumin:3.6 g/dL, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   47M s/p elective spinal surgery (anterior approach) on [**3-14**], scheduled
   for return to spinal surgery today (posterior approach) now in EtOH
   withdrawal requiring large doses of Diazepam.
   # EtOH withdrawal: Patient endorses 6 vodka drinks and some beers QD.
   Required ~380 mg Diazepam here, on top of the Ativan and Haldol
   received prior to MICU. (Ativan 9 mg IV, Haldol 4 mg IV, Diazepam 10 mg
   PO). Receiving Diazepam 10 mg IV q30 minutes and still tachypneic,
   tachycardic, agitated.
   -          Up to Diazepam 20 mg q 30 minutes
   -          He may need intubated for respiratory protection before can
   receive the sort of benzo dose his withdrawal will require
   -          Bolus 2 L IV NS
   # Spinal surgery: If patient intubated for his withdrawal state,
   surgery could go forward as soon as tomorrow, depending. Attending
   aware patient fell out of bed. Given unstable nature of only having
   anterior half of surgery done, this is another argument for
   sedating/intubating patient to complete the surgery quickly.
   # Hyponatremia: Na+ 129.
   -          Bolus 2 L IV NS.
   -          Monitor PM lytes
   # Tachypnea: Note has not had CXR today, now has new requirement of NC
   O2, sats of 94% with oxygen.
   -          CXR
   -          Monitor. Consider PE in this post-operative patient.
   # Hepatitis C:
   -Check LFTs
   ICU Care
   Nutrition: NPO for AMS
   Glycemic Control:
   Lines: PIVs
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-03-18 08:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Admitted for elective spinal stenosis surgery
   Went into DTs post-op
   Eventually intubated
   Underwent planned second surgery this morning
   24 Hour Events:
 EKG - At [**2186-3-17**] 12:32 PM
 INVASIVE VENTILATION - START [**2186-3-17**] 01:40 PM
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-17**] 10:50 AM
   Morphine Sulfate - [**2186-3-17**] 11:02 AM
   Hydralazine - [**2186-3-17**] 11:13 AM
   Diazepam (Valium) - [**2186-3-17**] 11:17 AM
   Haloperidol (Haldol) - [**2186-3-17**] 01:24 PM
   Propofol - [**2186-3-17**] 02:00 PM
   Metoprolol - [**2186-3-17**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-18**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 84 (84 - 127) bpm
   BP: 100/63(70) {98/58(68) - 169/112(138)} mmHg
   RR: 18 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,785 mL
                                                                    968 mL
   PO:
             TF:
                                                                    134 mL
   IVF:
                                                                  2,651 mL
                                                                    968 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    250 mL
   Urine:
                                                                  1,605 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.41/43/173/26/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 577
   Physical Examination
   Intubated, sedated
   Lungs clear
   Hrt rrr
   Abd benign
   Extreme no edema
   Labs / Radiology
   11.6 g/dL
   228 K/uL
   96 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   33.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
   WBC
   16.1
   15.0
   10.0
   Hct
   38.5
   38.0
   33.3
   Plt
   194
   175
   228
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   28
   Glucose
   119
   122
   102
   96
   Other labs: PT / PTT / INR:11.3/27.3/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 will
   slowly wean propofol, will likely need some valium during taper
spinal surgery
 avoid anti-coagulation
   HTN
 lopressor
   ICU Care
   Nutrition: can start TFs
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-17**] 01:25 PM
   20 Gauge - [**2186-3-17**] 04:31 PM
   Prophylaxis:
   DVT:   boots
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :  ICU
   Total time spent:  38

2186-03-18 08:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2186-3-17**] 12:32 PM
 INVASIVE VENTILATION - START [**2186-3-17**] 01:40 PM
   - Intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
   - Post-intubation gas essentially normal except for PO2 in 170s;
   reduced to FiO2 30%
   - OG tube inserted, Tube feeds started, to be stopped at midnight
   - Tox screen negative for everything besides benzos
   - EKG checked for QTc interval: Not prolonged -> OK to use haldol
   instead of valium, post-extubation
   - ortho planning on completing surgical intervention tomorrow
   - IVF Bolus overnight for decreased UOP
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-17**] 10:50 AM
   Morphine Sulfate - [**2186-3-17**] 11:02 AM
   Hydralazine - [**2186-3-17**] 11:13 AM
   Diazepam (Valium) - [**2186-3-17**] 11:17 AM
   Haloperidol (Haldol) - [**2186-3-17**] 01:24 PM
   Propofol - [**2186-3-17**] 02:00 PM
   Metoprolol - [**2186-3-17**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-18**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 84 (84 - 127) bpm
   BP: 100/63(70) {98/58(68) - 169/112(138)} mmHg
   RR: 18 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,785 mL
                                                                    969 mL
   PO:
             TF:
                                                                    134 mL
   IVF:
                                                                  2,651 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    250 mL
   Urine:
                                                                  1,605 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                    719 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.41/43/173/26/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 577
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   11.6 g/dL
   96 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   33.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
   WBC
   16.1
   15.0
   10.0
   Hct
   38.5
   38.0
   33.3
   Plt
   194
   175
   228
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   28
   Glucose
   119
   122
   102
   96
   Other labs: PT / PTT / INR:11.3/27.3/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CT L-spine: Status post anterior lumbar instrumentation and
   anterior fusion from L4
   through S1 levels as described in detail above. The alignment and
   configuration of the lumbar vertebral bodies are maintained with no
   evidence
   of spondylolisthesis or distraction. There is no evidence of loosening
   of the
   orthopedic hardware, allograft bone material is noted anterior to the
   vertebral body at L4/L5 and L5/S1. No fluid collections or hematomas
   are
   detected.
   Assessment and Plan
   47M s/p elective spinal surgery (anterior approach) on [**3-14**],
   subsequently in significant EtOH withdrawal, delaying 2^nd stage of
   spinal surgery, requiring large doses of Diazepam. Now s/p stage 2
   # EtOH withdrawal: Patient endorses 6 vodka drinks and some beers QD.
   Required ~380 mg Diazepam here, on top of the Ativan and Haldol
   received prior to MICU. (Ativan 9 mg IV, Haldol 4 mg IV, Diazepam 10 mg
   PO). Receiving Diazepam 10 mg IV q30 minutes and still tachypneic,
   tachycardic, agitated.
   -          Up to Diazepam 20 mg q 30 minutes
   -          He may need intubated for respiratory protection before can
   receive the sort of benzo dose his withdrawal will require
   -          Bolus 2 L IV NS
   # Spinal surgery: If patient intubated for his withdrawal state,
   surgery could go forward as soon as tomorrow, depending. Attending
   aware patient fell out of bed. Given unstable nature of only having
   anterior half of surgery done, this is another argument for
   sedating/intubating patient to complete the surgery quickly.
   # Hyponatremia: Na+ 129.
   -          Bolus 2 L IV NS.
   -          Monitor PM lytes
   # Tachypnea: Note has not had CXR today, now has new requirement of NC
   O2, sats of 94% with oxygen.
   -          CXR
   -          Monitor. Consider PE in this post-operative patient.
   # Hepatitis C:
   -Check LFTs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-17**] 01:25 PM
   20 Gauge - [**2186-3-17**] 04:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-03-19 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-17**]:
   - Intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
   - Post-intubation gas essentially normal except for PO2 in 170s;
   reduced to FiO2 30%
   - OG tube inserted, Tube feeds started, to be stopped at midnight
   - Tox screen negative for everything besides benzos
   - EKG checked for QTc interval: Not prolonged -> OK to use haldol
   instead of valium, post-extubation
   - ortho planning on completing surgical intervention tomorrow
   - IVF Bolus overnight for decreased UOP
   [**3-18**]
   - Mother [**Name (NI) 1603**] [**Name (NI) 4205**] updated, [**Telephone/Fax (1) 11397**]
   - Posterior LIF done by Ortho this AM
   - Withdrawal as paralytics/sedatives decreased, HR and BPs increased
   - Resumed tube feeds s/p pos LIF
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 61.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-18**] 11:20 AM
   Metoprolol - [**2186-3-19**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 105 (85 - 127) bpm
   BP: 137/73(86) {118/63(76) - 158/97(107)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,224 mL
                                                                  1,589 mL
   PO:
             TF:
                                                                    380 mL
                                                                    572 mL
   IVF:
                                                                  3,744 mL
                                                                    917 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    650 mL
   Urine:
                                                                  1,270 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    185 mL
                                                                    100 mL
   Balance:
                                                                  2,769 mL
                                                                    939 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 46
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.53/37/123/27/8
   Ve: 12.5 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   11.0 g/dL
   182 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   139 mEq/L
   31.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
   WBC
   16.1
   15.0
   10.0
   10.6
   Hct
   38.5
   38.0
   33.3
   31.7
   Plt
   194
   175
   228
   273
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   32
   Glucose
   119
   122
   102
   96
   182
   Other labs: PT / PTT / INR:11.3/27.3/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 BACK PAIN
   47M s/p elective spinal surgery (anterior approach) on [**3-14**],
   subsequently in significant EtOH withdrawal, delaying 2nd stage of
   spinal surgery, requiring large doses of Diazepam. Now s/p stage 2
   # EtOH withdrawal: Pt intubated and sedated, now s/p surgery. Diazepam
   d/c
d prior to intubation given concern for benzodiazepine toxicity.
   Given break from valium and propofol sedation in the interim, patient
   time window of withdrawal may be passing.
   - Assess withdrawal symptoms as paralytics and sedatives weaned down
   # Spinal surgery: Completed 2nd stage of surgery this morning.
   - f/u surgery recs
   - extubate when sedation and paralytics weaned
   - avoiding anti-coagulation at this time
   - weight bearing orders per surgery preferences
   # Hyponatremia: Resolved
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes, IV fluid boluses PRN; starting Tube feeds today
   # Access: PIV x2
   # Ppx: Pneumoboots
   # Code: Full
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2186-3-19**] 07:06 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-17**] 01:25 PM
   20 Gauge - [**2186-3-17**] 04:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-03-19 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Propofol weaned, agitated
   24 Hour Events:
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-18**] 11:20 AM
   Metoprolol - [**2186-3-19**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-19**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 105 (85 - 127) bpm
   BP: 137/73(86) {118/63(76) - 158/97(107)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,224 mL
                                                                  1,814 mL
   PO:
             TF:
                                                                    380 mL
                                                                    618 mL
   IVF:
                                                                  3,744 mL
                                                                  1,046 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    650 mL
   Urine:
                                                                  1,270 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    185 mL
                                                                    100 mL
   Balance:
                                                                  2,769 mL
                                                                  1,164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 46
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.53/37/123
   Ve: 12.5 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Intubated, sedated
   Neck supple
   Hrt RRR
   Lung clear
   Abd benign
   Extrem no edema
   Labs / Radiology
   11.0 g/dL
   273 K/uL
   182 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   9 mg/dL
   107 mEq/L
   139 mEq/L
   31.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
   WBC
   16.1
   15.0
   10.0
   10.6
   Hct
   38.5
   38.0
   33.3
   31.7
   Plt
   194
   175
   228
   273
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   32
   Glucose
   119
   122
   102
   96
   182
   Other labs: PT / PTT / INR:11.3/27.3/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 will
   slowly wean propofol, will add back valium and hopefully wean propofol
spinal surgery
 avoid anti-coagulation, post-op eval by ortho
   apparently acceptable
   HTN / tachy
 presumably due to withdrawal, follow and treat with
   valium
   Anemia
 follow Hct and bloody drainage
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2186-3-19**] 07:06 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-17**] 01:25 PM
   20 Gauge - [**2186-3-17**] 04:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition :   ICU
   Total time spent:   37

2186-03-20 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - drain out put good (250cc/24 hours) likely pull tomorrow
   - started on valium 40mg po q2 with plan to try to wean propofol
   - need to clarify timing of DVT ppx
   - urine is *green* from propofol
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-20**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 107 (94 - 120) bpm
   BP: 148/84(98) {120/47(78) - 158/96(109)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,474 mL
                                                                  1,333 mL
   PO:
             TF:
                                                                  1,098 mL
                                                                    320 mL
   IVF:
                                                                  2,976 mL
                                                                    834 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    680 mL
   Urine:
                                                                  1,380 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
                                                                    225 mL
                                                                     40 mL
   Balance:
                                                                  2,869 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: Agitated
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, withdraws to noxious/verbal stimuli
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   308 K/uL
   10.0 g/dL
   113 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   28.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
   WBC
   16.1
   15.0
   10.0
   10.6
   10.1
   Hct
   38.5
   38.0
   33.3
   31.7
   28.9
   Plt
   194
   175
   228
   273
   308
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   28
   32
   Glucose
   119
   122
   102
   96
   182
   113
   Other labs: PT / PTT / INR:11.6/26.2/1.0, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   47M s/p elective spinal surgery (anterior and posterior LIFs),
   intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
    # EtOH withdrawal: Pt intubated and sedated, now s/p surgery. Diazepam
   d/c
d prior to intubation, in favor of Propofol. As Propofol weans,
   patient becomes agitated, tachy, hypertensive. Seems to be undertreated
   with benzos.
   - Will better manage pain today with standing Oxycodone and Tylenol
   (nte 2 grams), Morphine for breakthrough pain
   - Continue Diazepam via NGT, 40 mg NG q 2 hours
 Will add back CIWA
   protocol today and use Diazepam PRN
   - Wean Propofol by 5 mcg/kg/hr and watch for withdrawal symptoms, if +
   increase Diazepam dosing
   - Goal is to transition patient to PO benzos for w/d management
   - D/c Beta blocker so as not to mask withdrawal sx
   # Spinal surgery: Completed 2nd stage of surgery on Saturday
   - f/u surgery recs: okay to restart low-dose heparin SQ
   - weight bearing orders per surgery preferences
    # Hyponatremia: Resolved but has ongoing down trend in hematocrit
   - Recheck PM hematocrit
   .
   # Constipation: No bowel movements since admission. Abdominal exam
   remains softly distended with bowel sounds
   - Aggressive bowel regimen currently
 will monitor today and add
   medications if does not stool in the afternoon
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes, IV fluid boluses discontinued today; tube feeds
   # Access: PIV x2
   # Ppx: Pneumoboots, Protonix
   # Code: Full
   # Dispo: ICU pending above
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 BACK PAIN
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2186-3-19**] 10:42 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-17**] 01:25 PM
   20 Gauge - [**2186-3-17**] 04:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-03-21 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Agitated, diaphoretic, altered, hypertensive and tachy this AM despite
   standing Oxycodone, Clonidine and PRN Morphine, Diazepam.
   Requiring additional Diazepam 70 mg (20 mg PO and 50 mg IV) this AM
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-20**] 01:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-21**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 96 (90 - 118) bpm
   BP: 114/59(72) {114/56(70) - 161/102(112)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,304 mL
                                                                    503 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    254 mL
   IVF:
                                                                  1,672 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,493 mL
                                                                    570 mL
   Urine:
                                                                  2,453 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                    811 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 455 (399 - 549) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 51
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 8.1 L/min
   Physical Examination
   Diaphoretic, struggling against restraints, intubated
   S1 S2
   CTA
   Soft NT ND, C/D/I
   Labs / Radiology
   325 K/uL
   9.2 g/dL
   118 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   11 mg/dL
   105 mEq/L
   142 mEq/L
   27.3 %
   12.5 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
   WBC
   16.1
   15.0
   10.0
   10.6
   10.1
   12.5
   Hct
   38.5
   38.0
   33.3
   31.7
   28.9
   27.3
   Plt
   194
   175
   228
   273
   308
   325
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   28
   32
   Glucose
   119
   122
   102
   96
   182
   113
   118
   Other labs: PT / PTT / INR:11.4/24.5/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   47M s/p elective spinal surgery (anterior and posterior LIFs),
   intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
    # EtOH withdrawal: Pt intubated and sedated, now s/p surgery. Diazepam
   d/c
d prior to intubation, in favor of Propofol. As Propofol weans,
   patient becomes agitated, tachy, hypertensive.
   - D/C Morphine IV, and add Dilaudid IV to his standing Oxycodone and
   Tylenol
   - For agitation now written for Diazepam 10 mg q 30 mins in addition to
   standing Clonidine
   - c/s from psych addiction team for further recs
   - Goal is to transition patient to PO benzos for w/d management
   # Spinal surgery: Completed 2nd stage of surgery on Saturday
   - f/u surgery recs: okay to restart low-dose heparin SQ
   - weight bearing orders per surgery preferences
    - f/u hematocrit which trending down
    # Hyponatremia: Resolved
   # Constipation: Has not had BM since admission: Increased colace, added
   lactulose
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes; tube feeds
   # Access: PIV x2
   # Ppx: Pneumoboots, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2186-3-20**] 07:33 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-21**] 01:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 47M admitted for elective spinal surgery
   complicated by etoh withdrawal. Remains intubated on PSV. Received
   valium 20 PO and 50 IV this am.
   AF  100  150/104  24  95%  PS 5/5 30%
   intubated, diaphoretic
   CTA
   RR tachy
   + BS, soft, NT
   no edema
   WBC 12.5K, HCT 27.3, K+  3.4, Cr  0.5
   CXR--small lung volumes
   Tachycardic/diaphoretic and hypetensive likely from etoh wd and
   possibly post-op pain as well as possible narcotic withdrawal. Agree
   with plan to continue valium per modified ciwa, clonidine,
   thiamine/folate/mvi, continuing oxycodone and standing tylenol for pain
   control.  As pt likely has high narcotic tolerance in setting of
   chronic pain, will add prn dilaudid.  We continue vent support, now on
   PS 5/5 with MS, somnolence, and sedation needs current barriers to
   extubation.  Trend hct given slow decline and keep type and cross.
   Ortho per post-op care. ICU: boots, PPI (on at home), PIVs, TFs, full
   code. Increase bowel reg. Remainder of plan as outlined in resident
   note.  Family updated during am rounds.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2186-3-21**] 15:31 ------

2186-03-22 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Agitated q3 o/n, pain meds q4
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-21**] 08:00 AM
   Diazepam (Valium) - [**2186-3-21**] 11:00 AM
   Pantoprazole (Protonix) - [**2186-3-21**] 12:00 PM
   Haloperidol (Haldol) - [**2186-3-22**] 03:57 AM
   Hydromorphone (Dilaudid) - [**2186-3-22**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 103 (86 - 124) bpm
   BP: 139/95(102) {110/60(71) - 175/97(111)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
                  Total In:
                                                                  2,079 mL
                                                                    336 mL
   PO:
                  TF:
                                                                    779 mL
                                                                    111 mL
   IVF:
                                                                    710 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    670 mL
   Urine:
                                                                  2,575 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (406 - 596) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 8.6 L/min
   Physical Examination
   Agitated, intubated, nonresponsive
   S1 S2 tachy
   CTA
   Soft nt nd
   No edema
   Labs / Radiology
   372 K/uL
   9.5 g/dL
   107 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   12 mg/dL
   105 mEq/L
   140 mEq/L
   27.1 %
   13.2 K/uL
        [image002.jpg]
                             [**2186-3-16**]  10:03 PM
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
   WBC
   16.1
   15.0
   10.0
   10.6
   10.1
   12.5
   13.2
   Hct
   38.5
   38.0
   33.3
   31.7
   28.9
   27.3
   27.1
   Plt
   194
   175
   228
   273
   308
   325
   372
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   28
   32
   Glucose
   119
   122
   102
   96
   182
   113
   118
   107
   Other labs: PT / PTT / INR:11.4/24.5/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   # Agitation: Picture now c/w benzo intoxication, sequelae of his EtOH
   withdrawal management. Psych has seen, recommend Haldol for behavior
   issues. (Normal QTc), less Diazepam.
   # Respiratory status: CXR, BAL c/w VAP.
   - Start Vancomycin, Cefepime
   # Spinal surgery: Spinal stenosis s/p surgical intervention. Incisions
   look clean, dry.
   - f/u surgery recs: okay to restart low-dose heparin SQ
   - weight bearing orders per surgery preferences
    - f/u hematocrit which trending down
   # Constipation: Has still not had BM since admission: On Colace,
   Lactulose
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes; tube feeds
   # Access: PIV x2
   # Ppx: Pneumoboots, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-21**] 01:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-03-23 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2186-3-22**] 09:45 AM
   - Pain medicine increased (oxycodone/dilaudid PRN)
   - Diazepam d/c'd
   - Remains agitated, altered
   - Vanc/Cefepime started for VAP
   - SBT in AM
   - still no BM ...
   - 06:30: had Haldol 2 mg IV in addition to 1 mg TID
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-22**] 08:00 PM
   Cefipime - [**2186-3-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-22**] 08:00 AM
   Pantoprazole (Protonix) - [**2186-3-22**] 12:00 PM
   Hydromorphone (Dilaudid) - [**2186-3-22**] 09:00 PM
   Haloperidol (Haldol) - [**2186-3-23**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 118 (85 - 124) bpm
   BP: 159/87(105) {107/56(69) - 165/92(105)} mmHg
   RR: 21 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,276 mL
                                                                    584 mL
   PO:
             TF:
                                                                    111 mL
   IVF:
                                                                    770 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                     60 mL
   Urine:
                                                                  2,130 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -854 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 451 (83 - 816) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 52
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: Well nourished, agitated with all four extremities
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   511 K/uL
   10.4 g/dL
   113 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   16 mg/dL
   100 mEq/L
   137 mEq/L
   30.7 %
   13.9 K/uL
        [image002.jpg]
   Sputum culture NGTD, gram stain 4+ GNR and 1+ GPC in pairs/clusters
   Urine culture negative
   Sputum culture ngtd
   HCV viral load 2.12 million
                             [**2186-3-17**]  03:53 AM
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
   WBC
   15.0
   10.0
   10.6
   10.1
   12.5
   13.2
   13.9
   Hct
   38.0
   33.3
   31.7
   28.9
   27.3
   27.1
   30.7
   Plt
   175
   228
   273
   [**Telephone/Fax (3) 11470**]
   511
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   28
   32
   Glucose
   122
   102
   96
   182
   113
   118
   107
   113
   Other labs: PT / PTT / INR:11.4/24.5/0.9, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   47M s/p elective spinal surgery (anterior and posterior LIFs),
   intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
   # Agitation: Picture now c/w benzo intoxication, sequelae of his EtOH
   withdrawal management. Psych has seen, recommend Haldol for behavior
   issues. (Normal QTc). Diazepam discontinued yesterday
   - Continue Haldol 1mg three times daily; will obtain daily EKGs to
   monitor QT interval
   - Will control pain better with Fentanyl patch and Dilaudid for
   breakthrough pain. Will discontinue Oxycodone, continue standing
   Tylenol
   # Respiratory status: CXR, BAL c/w VAP.
   - Continue Vancomycin, Cefepime Day 2
   - Given copious secretions, will hold on extubation. Spontaneous
   breathing trial again tomorrow with possible extubation
   # Spinal surgery: Spinal stenosis s/p surgical intervention. Incisions
   look clean, dry, intact.
   - f/u surgery recs: okay to restart low-dose heparin SQ
   - weight bearing orders per surgery preferences
    - f/u hematocrit which is trending down
   # Constipation: Has still not had BM since admission: On Colace,
   Lactulose
   - If no bowel movement this afternoon, will give Methylnaltrexone
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes; tube feeds
   # Access: PIV x2
   # Ppx: Pneumoboots, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-21**] 01:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 BACK PAIN

2186-03-24 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continue intubation given secretions +/- agitation (last dose of
   valium [**3-20**])
   - Girlfriend and mother updated individually; daughter requesting
   family meeting one afternoon this weekend
   - CXR/KUB: unable to obtain given agitation
   - Large liquid bowel movement in the afternoon
   - Started on fentanyl 50 mcg/hr. dilaudid for breakthrough
   - Tube feeds increased to 60 cc/hr but stopped after MN for possible
   extubation
   - Much less agitated overnight
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2186-3-23**] 10:00 AM
   Vancomycin - [**2186-3-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2186-3-23**] 06:20 PM
   Hydromorphone (Dilaudid) - [**2186-3-24**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37
C (98.6
   HR: 118 (96 - 127) bpm
   BP: 137/86(97) {114/66(79) - 168/102(114)} mmHg
   RR: 18 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,620 mL
                                                                    194 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    365 mL
   Urine:
                                                                  1,325 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    295 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 411 (383 - 540) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   Continues to be rhonchorous bilaterally in all lung fields, moderate
   amounts of yellow secretions
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   574 K/uL
   11.2 g/dL
   113 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   16 mg/dL
   100 mEq/L
   137 mEq/L
   32.4 %
   15.0 K/uL
        [image002.jpg]
   Sputum gram stain 4+GNR, 1+ GPCs; NGTD
                             [**2186-3-17**]  04:25 PM
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
   WBC
   10.0
   10.6
   10.1
   12.5
   13.2
   13.9
   15.0
   Hct
   33.3
   31.7
   28.9
   27.3
   27.1
   30.7
   32.4
   Plt
   [**Telephone/Fax (2) 11504**]
   574
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   28
   32
   Glucose
   102
   96
   182
   113
   118
   107
   113
   Other labs: PT / PTT / INR:12.2/24.8/1.0, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:84.8 %, Lymph:7.1 %, Mono:7.4 %, Eos:0.5 %,
   Albumin:3.6 g/dL, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   47M s/p elective spinal surgery (anterior and posterior LIFs),
   intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
   # Agitation: Picture now c/w benzo intoxication, sequelae of his EtOH
   withdrawal management. Psych has seen, recommend Haldol for behavior
   issues. (Normal QTc). Diazepam discontinued yesterday. Agitation
   improved yesterday overnight
   - Continue Haldol 1mg three times daily; will obtain daily EKGs to
   monitor QT interval
   - Will continue better pain control with Fentanyl patch and Dilaudid
   for breakthrough pain. Will discontinue Oxycodone, continue standing
   Tylenol
   # Respiratory status: CXR, BAL c/w VAP.
   - Continue Vancomycin, Cefepime Day 4 of likely 14 day course
   - Given copious secretions, will hold on extubation again. Spontaneous
   breathing trial again tomorrow with possible extubation
   # Spinal surgery: Spinal stenosis s/p surgical intervention. Incisions
   look clean, dry, intact.
   - f/u surgery recs: okay to restart low-dose heparin SQ
   - weight bearing orders per surgery preferences
    - f/u hematocrit which is trending down
   # Constipation: Resolved. Had multiple bowel movements yesterday
   - On Colace, lactulose TID (also useful for possible hepatic
   encephalopathy)
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes; tube feeds
   # Access: PIV x2
   # Ppx: Pneumoboots, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 BACK PAIN
   Spinal stenosis s/p surgical intervention
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-21**] 01:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-03-25 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2186-3-24**] 07:00 PM
   [**3-24**]:
   - Continue intubation given secretions and agitation again
   - Having good stool output - which may help w/ mental status given h/o
   Hep C
   - Vanc trough 7.1 so 1g q12 --> 1250mg q12 per pharm
   - Daughter would like family meeting sat afternoon
   - Heparin SQ now TID
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-24**] 09:45 PM
   Cefipime - [**2186-3-25**] 12:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-25**] 12:30 AM
   Hydromorphone (Dilaudid) - [**2186-3-25**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-25**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 89 (87 - 129) bpm
   BP: 114/73(83) {108/70(79) - 175/97(112)} mmHg
   RR: 12 (8 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    669 mL
                                                                    124 mL
   PO:
             TF:
   IVF:
                                                                    549 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    345 mL
   Urine:
                                                                  1,042 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -373 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 135 (135 - 1,181) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 28
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 13.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   617 K/uL
   10.6 g/dL
   94 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   17 mg/dL
   102 mEq/L
   140 mEq/L
   30.2 %
   18.6 K/uL
        [image002.jpg]
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
                             [**2186-3-25**]  03:41 AM
   WBC
   10.0
   10.6
   10.1
   12.5
   13.2
   13.9
   15.0
   18.6
   Hct
   33.3
   31.7
   28.9
   27.3
   27.1
   30.7
   32.4
   30.2
   Plt
   [**Telephone/Fax (2) 11504**]
   574
   617
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   28
   32
   Glucose
   96
   182
   113
   118
   107
   113
   98
   94
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0 %, Mono:9.0 %, Eos:2.0
   %, Albumin:3.6 g/dL, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 BACK PAIN
   Spinal stenosis s/p surgical intervention
   47M s/p elective spinal surgery (anterior and posterior LIFs),
   intubated for altered MS and inadequate w/d treatment even with high
   levels of benzos
   # Agitation: Picture now c/w benzo intoxication, sequelae of his EtOH
   withdrawal management. Psych has seen, recommend Haldol for behavior
   issues. (Normal QTc). Diazepam discontinued yesterday. Agitation
   improved yesterday overnight
   - Continue Haldol 1mg three times daily; will obtain daily EKGs to
   monitor QT interval
   - Will continue better pain control with Fentanyl patch and Dilaudid
   for breakthrough pain. Will discontinue Oxycodone, continue standing
   Tylenol
   # Respiratory status: CXR, BAL c/w VAP.
   - Continue Vancomycin, Cefepime Day 4 of likely 14 day course
   - Given copious secretions, will hold on extubation again. Spontaneous
   breathing trial again tomorrow with possible extubation
   # Spinal surgery: Spinal stenosis s/p surgical intervention. Incisions
   look clean, dry, intact.
   - f/u surgery recs: okay to restart low-dose heparin SQ
   - weight bearing orders per surgery preferences
    - f/u hematocrit which is trending down
   # Constipation: Resolved. Had multiple bowel movements yesterday
   - On Colace, lactulose TID (also useful for possible hepatic
   encephalopathy)
   # Hepatitis C: Following LFTs. Poor outpatient follow-up in the past
   # FEN: Repleting lytes; tube feeds
   # Access: PIV x2
   # Ppx: Pneumoboots, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-24**] 07:00 PM
   18 Gauge - [**2186-3-24**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-03-25 11:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: VAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2186-3-24**] 07:00 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2186-3-25**] 12:10 AM
   Vancomycin - [**2186-3-25**] 08:08 AM
   Meropenem - [**2186-3-25**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-3-25**] 08:08 AM
   Hydromorphone (Dilaudid) - [**2186-3-25**] 09:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-25**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 97 (87 - 129) bpm
   BP: 128/83(93) {108/70(79) - 159/97(112)} mmHg
   RR: 8 (8 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    669 mL
                                                                    468 mL
   PO:
             TF:
   IVF:
                                                                    549 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    565 mL
   Urine:
                                                                  1,042 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -373 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 665 (135 - 866) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 28
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: ///27/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   617 K/uL
   94 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   17 mg/dL
   102 mEq/L
   140 mEq/L
   30.2 %
   18.6 K/uL
        [image002.jpg]
                             [**2186-3-17**]  06:43 PM
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
                             [**2186-3-25**]  03:41 AM
   WBC
   10.0
   10.6
   10.1
   12.5
   13.2
   13.9
   15.0
   18.6
   Hct
   33.3
   31.7
   28.9
   27.3
   27.1
   30.7
   32.4
   30.2
   Plt
   [**Telephone/Fax (2) 11504**]
   574
   617
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   28
   32
   Glucose
   96
   182
   113
   118
   107
   113
   98
   94
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0 %, Mono:9.0 %, Eos:2.0
   %, Albumin:3.6 g/dL, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -cont abx
   -progress weaning vent
   -SBT, possible window for extubation today
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
   -significantly improved today
   -awake, alert at times following commands
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Should be beyond withdrawal window
   -Slowly clearing meds
 BACK PAIN
   Spinal stenosis s/p surgical intervention
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2186-03-26 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2186-3-25**] 01:37 PM
   [**3-25**]:
   - started [**Last Name (un) **] and stopped cefepime for rising WBC
   - better MS
   - moaning, tachy o/n, again not getting PO meds: no clonidine, tylenol,
   lactulose. Dilaudid dosing increased, but still moaning at 0300.
   Changed Clonidine to patch, increased 72-hr Fentanyl patch from 50
   mcg->75 mcg
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2186-3-25**] 12:10 AM
   Vancomycin - [**2186-3-25**] 08:17 PM
   Meropenem - [**2186-3-26**] 03:59 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2186-3-25**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2186-3-25**] 11:31 PM
   Hydromorphone (Dilaudid) - [**2186-3-26**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-26**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 126 (91 - 135) bpm
   BP: 153/83(102) {114/74(85) - 166/100(110)} mmHg
   RR: 16 (8 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,040 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                  1,040 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    560 mL
   Urine:
                                                                  1,405 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 5.5 L/min
   Physical Examination
   Gen: Patient still altered but more alert and communicative than ever,
   able to carry on short conversation about having back pain.
   Diaphoretic, in 4-point, mumbling most of the time
   Lungs: CTA
   S1 S2 no murmur
   Ab: soft NT ND C/D/I
   Labs / Radiology
   672 K/uL
   10.2 g/dL
   78 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   100 mEq/L
   139 mEq/L
   30.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
                             [**2186-3-25**]  03:41 AM
                             [**2186-3-26**]  03:16 AM
   WBC
   10.0
   10.6
   10.1
   12.5
   13.2
   13.9
   15.0
   18.6
   19.7
   Hct
   33.3
   31.7
   28.9
   27.3
   27.1
   30.7
   32.4
   30.2
   30.7
   Plt
   [**Telephone/Fax (3) 11504**]
   [**Telephone/Fax (3) 11532**]
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   Glucose
   96
   182
   113
   118
   107
   113
   98
   94
   78
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0 %, Mono:9.0 %, Eos:2.0
   %, Albumin:3.6 g/dL, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   47M s/p elective spinal surgery (anterior and posterior LIFs) c/b
   alcohol withdrawal, extubated one day ago, with continued altered MS,
   known VAP, and climbing white count.
   # Agitation / Altered MS: Off Diazepam, written for Haldol but not
   using much. Today endorses pain in back. In past his agitation and
   tachycardia have responded to analgesia; for the past day there
s less
   association though between treatment and response.
   - aggressive pain management
   - Clonidine for withdrawal sx
   # Pain control: Was on Fentanyl 50 mcg, Tylenol and Dilaudid 1-2 mg q 3
   IV. But not POing for past day, so not receiving his Tylenol (or
   Clonidine).
   - Increased Fentanyl to 75 mcg patch
   - Clonidine also a patch now
   - Low threshold for increasing his Dilaudid dosing
   # Tachycardia: Episodes to the 120s common, sinus tach. In past
   resolved with either withdrawal sx treatment with benzos, and then with
   pain treatment. Now past 24 hours not turning around. I think either he
   is subtherapeutic on pain medicine and needs even more Dilaudid (say 2
   mg q 2 hours prn) or this is a manifestation of infection, along with
   his leukocytosis. He also could be dehydrated given his poor PO intake
   past 24 hours.
   - monitor for infection
   - bolus with NS
   # VAP: BAL [**3-25**] shows 1+ GNRs, c/w VAP. Cefepime stopped and Meropenem
   started given rising white counts.
   - f/u sputum cxs
   # Leukocytosis: Rising despite abx. Had large BMs yesterday.
   - check C Diff
   - If does not turn around soon consider CT scan to evaluate spinal
   surgical sites
   # Spinal surgery: Spinal stenosis s/p surgical intervention. Incisions
   look clean, dry, intact.
   - f/u surgery recs
   # Constipation: Resolved. Had multiple bowel movements yesterday, none
   today.
   - On Colace, Senna, Lactulose TID (also useful for possible hepatic
   encephalopathy)
   # Hepatitis C: Poor outpatient follow-up in the past
   - Check LFTs today
   # FEN: Repleting lytes; needs nutrition consult for TPN given not
   eating
   # Access: PIV x2, PICC
   # Ppx: Hep SQ, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above

2186-03-26 09:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: VAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2186-3-25**] 01:37 PM
   -meropenem started
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2186-3-25**] 12:10 AM
   Meropenem - [**2186-3-26**] 03:59 AM
   Vancomycin - [**2186-3-26**] 08:47 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2186-3-25**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2186-3-26**] 08:47 AM
   Hydromorphone (Dilaudid) - [**2186-3-26**] 08:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-26**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 129 (91 - 135) bpm
   BP: 158/100(110) {114/74(85) - 166/100(110)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,040 mL
                                                                    391 mL
   PO:
             TF:
   IVF:
                                                                  1,040 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    760 mL
   Urine:
                                                                  1,405 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: ///26/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed, intermittently attentive
   Labs / Radiology
   10.2 g/dL
   672 K/uL
   78 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   100 mEq/L
   139 mEq/L
   30.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2186-3-18**]  03:23 AM
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
                             [**2186-3-25**]  03:41 AM
                             [**2186-3-26**]  03:16 AM
   WBC
   10.0
   10.6
   10.1
   12.5
   13.2
   13.9
   15.0
   18.6
   19.7
   Hct
   33.3
   31.7
   28.9
   27.3
   27.1
   30.7
   32.4
   30.2
   30.7
   Plt
   [**Telephone/Fax (2) 11504**]
   [**Telephone/Fax (3) 11532**]
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   Glucose
   96
   182
   113
   118
   107
   113
   98
   94
   78
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:69/49, Alk Phos / T Bili:49/0.6,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0 %, Mono:9.0 %, Eos:2.0
   %, Albumin:3.6 g/dL, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -cont abx
   -able to extubated yesterday afternoon after successful SBT
   -wbc cont rise - abx adjusted yesterday - meropenem stared
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
   -awake, alert intermittently but generally confused/delirious
   -likely med related - hold sedating meds as able
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Should be beyond withdrawal window
   -Slowly clearing meds
 BACK PAIN
   -Spinal stenosis s/p surgical intervention - 2 part anterior/posterior
   approach
   -if cont leukocytosis, might need to explore as potential etiology - at
   this point would need to intubate and sedate heavily so defer for now
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2186-03-27 10:23:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: VAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - no events overnight
   - mental status improved
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2186-3-25**] 12:10 AM
   Meropenem - [**2186-3-27**] 04:00 AM
   Vancomycin - [**2186-3-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-26**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2186-3-27**] 12:12 AM
   Haloperidol (Haldol) - [**2186-3-27**] 04:20 AM
   Hydromorphone (Dilaudid) - [**2186-3-27**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-27**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 100 (100 - 129) bpm
   BP: 136/84(96) {119/60(78) - 150/99(109)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,494 mL
                                                                    812 mL
   PO:
             TF:
   IVF:
                                                                  2,201 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    620 mL
   Urine:
                                                                  1,820 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    674 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, year, President, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   663 K/uL
   113 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   104 mEq/L
   142 mEq/L
   30.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2186-3-19**]  03:20 AM
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
                             [**2186-3-25**]  03:41 AM
                             [**2186-3-26**]  03:16 AM
                             [**2186-3-27**]  03:13 AM
   WBC
   10.6
   10.1
   12.5
   13.2
   13.9
   15.0
   18.6
   19.7
   14.5
   Hct
   31.7
   28.9
   27.3
   27.1
   30.7
   32.4
   30.2
   30.7
   30.6
   Plt
   273
   308
   325
   372
   [**Telephone/Fax (3) 11559**]
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   32
   Glucose
   182
   113
   118
   107
   113
   98
   94
   78
   113
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:57/56, Alk Phos / T Bili:136/0.3,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0 %, Mono:9.0 %, Eos:2.0
   %, Albumin:3.2 g/dL, LDH:377 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -cont abx
   -extubated successfully Saturday
   -wbc falling after meropenem stared
 TACHYCARDIA, OTHER
   -persistent.
   -Beyond window of ETOH withdrawal
   -no pain or evident anxiety
 DELIRIUM / CONFUSION
   -awake, alert much less confused today
   -likely med related - hold sedating meds as able
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Should be beyond withdrawal window
   -Slowly clearing meds
 BACK PAIN
   -Spinal stenosis s/p surgical intervention - 2 part anterior/posterior
   approach
   -if cont leukocytosis, might need to explore as potential etiology - at
   this point would need to intubate and sedate heavily so defer for now
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2186-3-26**] 04:58 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2186-03-28 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Ciprofloxacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-27**] 08:00 PM
   Meropenem - [**2186-3-28**] 03:40 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2186-3-28**] 03:30 AM
   Metoprolol - [**2186-3-28**] 05:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-28**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.7
   HR: 89 (89 - 126) bpm
   BP: 106/68(77) {106/68(77) - 174/97(132)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,588 mL
                                                                    812 mL
   PO:
             TF:
   IVF:
                                                                  1,281 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    730 mL
   Urine:
                                                                  1,460 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                     82 mL
   Respiratory support
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   741 K/uL
   10.5 g/dL
   123 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   14 mg/dL
   105 mEq/L
   144 mEq/L
   30.5 %
   14.7 K/uL
        [image002.jpg]
                             [**2186-3-19**]  04:48 AM
                             [**2186-3-20**]  03:39 AM
                             [**2186-3-21**]  03:30 AM
                             [**2186-3-22**]  01:30 AM
                             [**2186-3-23**]  04:25 AM
                             [**2186-3-24**]  03:21 AM
                             [**2186-3-25**]  03:41 AM
                             [**2186-3-26**]  03:16 AM
                             [**2186-3-27**]  03:13 AM
                             [**2186-3-28**]  02:57 AM
   WBC
   10.1
   12.5
   13.2
   13.9
   15.0
   18.6
   19.7
   14.5
   14.7
   Hct
   28.9
   27.3
   27.1
   30.7
   32.4
   30.2
   30.7
   30.6
   30.5
   Plt
   [**Telephone/Fax (3) 11584**]63
   741
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   32
   Glucose
   113
   118
   107
   113
   98
   94
   78
   113
   123
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:360/5/, ALT / AST:57/56, Alk Phos / T Bili:136/0.3,
   Differential-Neuts:75.9 %, Band:0.0 %, Lymph:15.8 %, Mono:5.3 %,
   Eos:2.4 %, Albumin:3.2 g/dL, LDH:377 IU/L, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 TACHYCARDIA, OTHER
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 BACK PAIN
   Spinal stenosis s/p surgical intervention
   Assessment and Plan
   47M s/p elective spinal surgery (anterior and posterior LIFs) c/b
   alcohol withdrawal, extubated one day ago, with continued altered MS,
   known VAP, and climbing white count.
   # Agitation / Altered MS: Improving.
   - aggressive pain management
   - Clonidine for withdrawal sx
   # Pain control: Not POing for past 2 days, so not receiving his
   Tylenol.
   - PR Tylenol for now
   - Low threshold for increasing his Dilaudid dosing
   # Tachycardia: Episodes to the 120s common, sinus tach. Dehydration vs
   infection vs pain vs propylene glycol toxicity s/p Diazepam loading
   last week
   - monitor for infection
   - bolus with NS
   # VAP: BAL [**3-25**] shows 1+ GNRs, c/w VAP. WBC dropping with [**Last Name (un) 350**].
   - continue [**Last Name (un) 350**]
   - f/u sputum cxs
   # Spinal surgery: Spinal stenosis s/p surgical intervention. Incisions
   look clean, dry, intact.
   - f/u surgery recs
   # Constipation: Intermittent issue. Not POing well so not receiving
   Colace, Senna, Lactulose TID.
   - Bisacodyul PR
   # Hepatitis C: Viral load 2.1 million, will need outpatient f/u
   # FEN: Repleting lytes; needs nutrition consult for TPN given not
   eating
   # Access: PIV x2, PICC
   # Ppx: Hep SQ, Protonix (home)
   # Code: Full
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   TPN without Lipids - [**2186-3-27**] 04:46 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2186-3-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: